US04994087
Step 1: Synthesis of 2-[(2,4-dimethyl-3-nitrophenylimino)-methylene]-pyridine.
3.3 g of 4-amino-2-nitro-m-xylene and 2.1 g of 2-pyridinealdehyde were dissolved in 50 ml ethanol and left to stand. Crystals slowly precipitated and were filtered off under suction and washed with ethanol. The dried product (3.0 g) had a melting point of 114° to 116° C.

reactant | 4-amino-2-nitro-m-xylene | 3.3 g | NC1=C(C(=C(C=C1)C)[N+](=O)[O-])C | C8H10N2O2
reactant | 2-pyridinealdehyde | 2.1 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[(2,4-dimethyl-3-nitrophenylimino)-methylene]-pyridine | CC1=C(C=CC(=C1[N+](=O)[O-])C)N=C=C1NC=CC=C1 | C14H13N3O2
